* Schematics Netlist *

* \date    2017/03/22 
* \time    21:25:21 

C_Cload_s         0 SUM  100f  
C_Cload_c         0 CARRY  100f  
V_Vclk         PHI 0  
+PULSE 0 1.2 0 25p 25p 250p 500p
V_VC         C 0  
+PULSE 0 1.2 0 25p 25p 2n 4n
V_VB         B 0  
+PULSE 0 1.2 0 25p 25p 1n 2n
V_VA         A 0  
+PULSE 0 1.2 0 25p 25p 0.5n 1n
V_V1         VDD 0 1.2V
M_M1         SUM nSUM VDD VDD P1  
+ L=0.00000012  
+ W=0.00000168  
M_M2         SUM PHI st3n 0 N1  
+ L=0.00000012  
+ W=0.00000108  
M_M3         st3n nSUM 0 0 N1  
+ L=0.00000012  
+ W=0.00000108  
M_M4         nSUM PHI VDD VDD P1  
+ L=0.00000012  
+ W=0.00000024  
M_M5         nSUM C st2nc 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M6         st2nc A st2nd 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M7         st2nd B st2nb 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M8         nSUM C st2na 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M9         nSUM A st2na 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M10         nSUM B st2na 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M11         st2na nCARRY st2nb 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M12         st2nb PHI 0 0 N1  
+ L=0.00000012  
+ W=0.00000024  
M_M13         st1pb B VDD VDD P1  
+ L=0.00000012  
+ W=0.00000036  
M_M14         nCARRY A st1pb VDD P1  
+ L=0.00000012  
+ W=0.00000036  
M_M15         nCARRY A st1nb 0 N1  
+ L=0.00000012  
+ W=0.00000012  
M_M16         st1nb B 0 0 N1  
+ L=0.00000012  
+ W=0.00000012  
M_M17         st1pa A VDD VDD P1  
+ L=0.00000012  
+ W=0.00000036  
M_M18         st1pa B VDD VDD P1  
+ L=0.00000012  
+ W=0.00000036  
M_M19         nCARRY C st1pa VDD P1  
+ L=0.00000012  
+ W=0.00000036  
M_M20         nCARRY C st1na 0 N1  
+ L=0.00000012  
+ W=0.00000012  
M_M21         st1na A 0 0 N1  
+ L=0.00000012  
+ W=0.00000012  
M_M22         st1na B 0 0 N1  
+ L=0.00000012  
+ W=0.00000012  
M_M23         CARRY nCARRY VDD VDD P1  
+ L=0.00000012  
+ W=0.00000120  
M_M24         CARRY PHI st22n 0 N1  
+ L=0.00000012  
+ W=0.00000072  
M_M25         st22n nCARRY 0 0 N1  
+ L=0.00000012  
+ W=0.00000072  

